US04670488
To the same flask as used in Example 1 were added 34 g (0.1 mole) of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-octylglycine methyl ester, 17.3 g (0.11 mole) of 2,2,6,6-tetramethyl-4-piperidinol, 1.2 g of potassium tert-butoxide and 100 g of heptane. The temperature was raised with stirring, and reaction was carried out at 98° to 105° C. for 6 hours, during which methanol was removed from the reaction system by means of the Deanstark trap. After completion of the reaction, water was added to the reaction solution to dissolve the product in the heptane layer. The heptane layer was separated, and heptane in the layer was removed by distillation to obtain 34.3 g of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-octylglycine(2,2,6,6-tetramethyl-4-piperidinyl)ester as a pale brown oily product. Yield, 74% based on N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-octylglycine methyl ester.

reactant | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-octylglycine methyl ester | 0.1 mole, 34 g | COC(CN(CCCCCCCC)C1CC(NC(C1)(C)C)(C)C)=O | C20H40N2O2
reactant | 2,2,6,6-tetramethyl-4-piperidinol | 0.11 mole, 17.3 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | potassium tert-butoxide | 1.2 g | CC(C)([O-])C.[K+]
reactant | methanol | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
solvent | heptane | 100 g | CCCCCCC | C7H16
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-octylglycine(2,2,6,6-tetramethyl-4-piperidinyl)ester | 34.3 g | CC1(NC(CC(C1)OC(CN(CCCCCCCC)C1CC(NC(C1)(C)C)(C)C)=O)(C)C)C | C28H55N3O2
